US06878717B2
4-[[4-[(2,4,6-trimethylphenyl)amino]-5-nitro-2-pyrimidinyl]amino]benzonitrile (0.001 mol), Pd/C 10% (0.025 g), ethanol (20 ml), and hydrazine (0.030 mol) were combined to form a slurry and stirred at room temperature for 16 hours. The solvent was removed by rotary evaporation. The residue was taken up in tetrahydrofuran (20 ml) and methanol (1 ml). A second portion of hydrazine (0.5 g) was added, and the reaction was stirred for 16 hours at room temperature. A third portion of hydrazine (0.5 ml) was added and the reaction was stirred for an additional 16 hours at room temperature. The sample was concentrated by rotary evaporation onto silica gel (1 g) and purified by flash chromatography (eluent: 0.5, 1,2% 10% (NH4OH in CH3OH) in CH2Cl2). The desired fractions were purified by preparatory HPLC to yield 0.24 g of 4-[[5-amino-4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile (70%); mp. 224-225° C. (comp. 51).

reactant | 4-[[4-[(2,4,6-trimethylphenyl)amino]-5-nitro-2-pyrimidinyl]amino]benzonitrile | 0.001 mol | CC1=C(C(=CC(=C1)C)C)NC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=C(C#N)C=C1 | C20H18N6O2
reactant | hydrazine | 0.030 mol | NN | H4N2
catalyst | Pd/C | 0.025 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[[5-amino-4-[(2,4,6-trimethylphenyl)amino]-2-pyrimidinyl]amino]benzonitrile | 0.24 g, 70% | NC=1C(=NC(=NC1)NC1=CC=C(C#N)C=C1)NC1=C(C=C(C=C1C)C)C | C20H20N6
